US04761483
N-Methylmorpholine (3.3 ml) was added to a suspension of L-alanine 1,1 -dimethylethyl ester (4.0 g), N2 -[(1,1-dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine (11.4 g), N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (5.8 g) and 1-hydroxybenzotriazole (4.1 g) in dichloromethane (150 ml). The resulting mixture was allowed to stand for 18 hours, and was then poured into distilled water (200 ml). The organic phase was separated, washed with water, saturated sodium hydrogen carbonate, dilute aqueous citric acid, brine and dried over anhydrous magnesium sulphate. The solvent was removed under reduced pressure to yield N-[N2 -[(1,1-dimethylethoxy) carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysinyl]-L-alanine 1,1-dimethylethyl ester (12.6 g) as a foam.

reactant | N-Methylmorpholine | 3.3 ml | CN1CCOCC1 | C5H11NO
reactant | L-alanine 1,1 -dimethylethyl ester | 4.0 g | CC(C)(C)OC([C@@H](N)C)=O | C7H15NO2
reactant | N2 [(1,1-dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine | 11.4 g | N#N.CC(C)(OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 5.8 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 4.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-[N2 -[(1,1-dimethylethoxy) carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysinyl]-L-alanine 1,1-dimethylethyl ester | 12.6 g | CC(C)(C)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CCCCNC(=O)OCC1=CC=CC=C1)=O)C)=O | C26H41N3O7
